Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm not getting any better"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, Ms. ___ is a ___ ___ with MDD and
social anxiety disorder s/p first-ever inpatient hospitalization
at ___ for SI, subsequently discharged to ___,
presenting on a ___ from ___ for ongoing depression and
hopelessness with no change in SI.

Per ___ note by Dr. ___ has depression and social anxiety
since high school. Her symptoms have progressively got worse
since ___. She has seen outpatient psychiatrist in ___
in ___, and tried multiple antidepressants trials with
no significant improvement. In ___ she had her first inpatient
psychiatry hospitalization at ___ for 2 weeks due to SI. She
was discharged to ___ on ___, and has been attending
the ___ ever since. On the day of ___ arrival, pt was interviewed
by a NP clilnician at the PHP group session about suicidal
thoughts. She replied "I don't know," and when pushed on whether
she could avoid committing suicide, she replied "I don't know...
it's not about avoiding it, it's about if I want to or not. I
don't know if I want to." Pt was then sent to ___ ___ on 
___ for further evaluation. 

On unit interview, pt was very anxious and tearful. She reports
she was brought to the hospital after the doctor at her PHP
program called the ambulance. When asked why did they sent her 
to
the hospital, she replied "I don't know". She says she has
depression and social anxiety since middle school. She has been
seeing by outpatient psychiatrist and therapist in the 
community.
She tried multiple anti-depressant trials including Zoloft,
Prozac, Wellbutrin, and Cymbalta in the past. She denies any of
them helped her in the past. She was recently hospitalized at
___ for 2 weeks for SI. She was discharged on Effexor 37.5mg,
which she has been taking regularly for 2 weeks. Pt denies any
acute psychosocial stressors that worsening her depression and
anxiety recently. She reports she is ___ at ___
with ___ major. But she has not going to classes for a
semester. She reports symptoms of poor sleep, anhedonia,
guilty/hopelessness/helplessness, and poor appetite. She reports
intermittent SI recently. She reports having active SI yesterday
prior to ___ visit. She was ambivalent to state any suicidal plan
or intent. But she reports had suicidal plans in the past 
without
further elaboration. She denies any past SA or SIB. She reports
social anxiety, which triggered by being yelled at anyone or
people being mean to her. She denies panic attacks symptoms. She
denies manic or psychotic symptoms.  She uses MJ X1 per week 
with
about 20mg. She says MJ makes her feel happy. She denies other
active substance use. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: (Per Dr. ___ 
___
note, with updates if relevant)
- Prior diagnoses: 
-Major Depressive Disorder: Endorses depressive symptoms
since at least high school. States that she "felt bad" and felt
as if the work was too much to handle. Had thoughts of jumping
into traffic or jumping out the window since high school. 
Briefly
was treated by school counselor in high school (see below), no
medications, did not find the therapist helpful. Experienced
worsening of symptoms since Fall ___, as per HPI. Trial of
medications since then, did not find them helpful. Admitted to
___ for SI related to MDD, as per HPI. 

-Social Anxiety Disorder: Beginning in middle school/high
school, Ms. ___ reports that she "stopped raising her hand to
speak in class, and stopped participating." Could not name why.
However, she reports that in high school she stopped turning in
assignments and doing her homework because she "was afraid of
being wrong, or failing." Also states that she has always been
shy but started feeling "afraid of people" around this time; she
finds that she is afraid people will yell at her and be mean to
her. After receiving a D on an assignment she turned in late, 
she
approached the mental health counselor at school regarding her
anxiety. Counselor gave her extensions on assignments, which she
did not find as helpful as she had hoped. Diagnosed with social
anxiety disorder by her outpatient provider in ___, prior to
admission. 
- Hospitalizations: ___, ___
- Current treaters and treatment: ___, NP at
___ ___ ___, MD at ___ ___
- Medication and ECT trials: Trials of sertraline, fluoxetine,
duloxetine; per patient, "they didn't help."
- Suicide attempts: none
- Self-injurious behavior: denies
- Harm to others: denies
- Access to weapons: denies

PAST MEDICAL HISTORY: Non contributory
No history of seizures or head injuries.
 
Social History:
-Born/Raised: ___; mother and father divorced when she
was a baby, had joint custody. Spent her childhood splitting 
time
between the two households. Has one older brother (___) with
same father. 
-Family/Support: Mother remarried first time when Ms. ___ was
still young; she remarks that she must of have liked him, does
not know why they split up but supposes "he must have been 
mean."
No contact with him now. Mother was then engaged to and living
with another man when Ms. ___ was ___, they had one daughter
together; Ms. ___ states "he was bad, my half sister has to 
have
a chaperone when he visits because he keeps failing drug tests."
Does not recall if he used drugs or alcohol while living in the
house. Mother remarried a man with ___ younger children (boy and
girl, ages ___ ___ years ago after Pt had left for school in
___. She does not have much of a relationship with her newest
stepfather or step-siblings, states "they're nice, I guess."
Biological father died of lymphoma ___ years ago. Ms. ___ is
ambivalent about his death, stating "he was mean to me, and he
didn't even need to die - he wouldn't have died if he had gone 
to
the doctor like he was supposed to." Has limited friends due to
her social anxiety and fear of being rejected. The only person
she trusts is her childhood friend, ___, whom she met when she
was young during a summer in ___ ___ is from a different
town in ___). They are now roommates in an apartment in
___, though she goes to a different college. ___ is aware 
of
Ms. ___ psychiatric struggles. 
-Relationship status/Children: Never had a romantic
relationship, not interested. Does not know if interested in 
men,
women, or both. 
-Housing: lives in apartment with childhood best friend, ___
-Education: Finished HS, current ___ at ___.
States 
-Employment/Income: Work study in ___ shop, helps
___
-Spiritual: Raised Catholic, family does not currently attend
church
-Trauma history: States that when she was young, especially in
middle school/high school, her biological father would yell at
her and, at least on one occasion, throw objects at her (a heavy
appliance, etc). Denies any physical or sexual abuse. States 
that
mother's fiancé would yell and perhaps hit her mother but denies
ever being abused by him directly. 

 
Family History:
-History of psychiatric disorders: possible MDD in mother ("on
___ 
-History of suicide attempts/self-injurious behavior: denies
-History of substance use: denies

 
Physical Exam:
VS:   98.0PO  96  112/64   18   99%RA
PE:
General: NAD
HEENT: PERRL, MMM, OP clear.
Lungs: CTAB; no crackles or wheezes.
CV: RRR; no m/r/g; 2+ pedal pulses
Abdomen: Soft, NT, ND.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological: CN ___ intact, no gross focal motor/sensory
deficits, gait wnl. Finger-nose-finger wnl.

MENTAL STATUS EXAM:
Mental Status:
*Appearance: Fairly groomed young female, appears younger that
stated age, short hair, holding a blanket closely to her chest,
sitting up in chair
 Behavior: Calm and cooperative with interview, very anxious
during the interview, pauses at times, poor eye contact, answers
questions appropriately. Not responding to internal stimuli
*Mood and Affect: "depressed", anxious and tearful affect,
constricted range and intensity, mood congruent
*Thought process : mostly linear and goal directed; No loosening
of associations
*Thought Content : Denies HI/AVH, passive SI
*Judgment and Insight: limited/limited
 
COGNITIVE EXAM:
Orientation: alert to person, place, time, situation
Attention/concentration: able to recite MOYB
memory (___, ___, Mr. ___: ___ registration, ___
recall, long-term: grossly intact
Calculations: quarters in $2.25 = 9
Language: grossly intact
Fund of knowledge: able to recall the last three ___ presidents
Proverbs: provided accurate interpretations  
Similarities/analogies: understood analogy of "apples to 
oranges"

 
Pertinent Results:
___ 07:50PM   GLUCOSE-79 UREA N-6 CREAT-0.5 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-27 ANION GAP-14
___ 07:50PM   estGFR-Using this
___ 07:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:50PM   WBC-6.6 RBC-4.73 HGB-14.1 HCT-41.1 MCV-87 
MCH-29.8 MCHC-34.3 RDW-12.0 RDWSD-38.5
___ 07:50PM   NEUTS-55.4 ___ MONOS-10.3 EOS-1.5 
BASOS-0.3 IM ___ AbsNeut-3.66 AbsLymp-2.13 AbsMono-0.68 
AbsEos-0.10 AbsBaso-0.02
___ 07:50PM   PLT COUNT-236
___ 04:31PM URINE  HOURS-RANDOM
___ 04:31PM URINE  UCG-NEGATIVE
___ 04:31PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:31PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:31PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
 
Brief Hospital Course:
*) LEGAL / SAFETY
The patient was admitted to an locked inpatient psychiatric 
unit. She signed a CV which was accepted on ___. On 
admission she was placed on Q15 minute checks which is the 
lowest level of observation provided on this unit. On admission 
she was placed on monitored access of ___
 

PSYCHIATRIC
#)On admission, pt appeared very depressed and anxious, tearful, 
very poor eye contact, curling up in her chair, biting finger 
nails during interview. 
During hospitalization, we gradually uptitrated her home Effexor 
from 37.5mg to 150mg. We added Abilify 5mg qhs as adjunctive 
treatment for her mood (uptitrated to 10mg daily). We added PRN 
Hydroxyzine 25mg q6h to help her with sleep and anxiety. 

On ___, family meeting was held w pt's mother and step 
father being present. Pt and her parents participated in 
meeting. Clinical impression and tx plan were discussed.
Pt's mother (Ms. ___ and step father ___, ?last 
name), and patient were all present. Pt's parents indicated that 
pt's premorbid baseline is quite different from pt's current 
presentation. Pt is able to socialize with peers. Pt had lead 
roles in theater performances. Per mother, "all went well until 
month ago". Mom ___ able to identify any single stressor. Per 
mom, pt's anxiety worsened in the context of several coinciding 
issues.
Pt's parents were concerned that pt's longer staying on the unit 
could negatively affect pt's anxiety. Per pt and parents, pt 
feels more comfortable in familiar environment. We agreed that 
hospital admission should be focused on acute stabilization, 
starting medications, and setting up follow up plan for 
outpatient treatment.

On the discharged day, Ms. ___ reported that she is ready for the 
discharge. She identified follow up plan. She reported that 
medications have been helpful.
On exam, ___ yo alert, thin woman. Decreased motor activity, poor 
eye contact. She reports feeling "fine", affect anxious and 
restricted. She placed level of
anxiety at ___ on scale from 0-none to 10-the worst anxiety. 
Reported good sleep at night. She denied any side effects after 
increase of Effexor to the dose 150mg qAM and Abilify 10mg po 
qHS. She clearly denied S/I. Reported about plans for future. 
She said that her stepfather will pick her up from the hospital. 
She plans to return to her apt and to attend to partial hospital 
program (intake on ___. She reflected upon her hospital 
admission. While admitting that she didn't feel comfortable in 
unfamiliar environment, she also said that had more positive 
experiences with this hospital admission. Being interviewed in 
smaller group was helpful to her.

The patient no longer endorses thoughts of self-harm and has 
gained greater insight into his/her illness over the course of 
his/her hospitalization. The patient has been able to contract 
for safety and has expressed that should any suicidal or 
homicidal thoughts return, he/she would notify staff 
immediately. The patient has also expressed that he/she is 
invested in his treatment and looks forward to return home.

GENERAL MEDICAL CONDITIONS
-No active medical problems

5. PSYCHOSOCIAL

#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  She 
attended groups. OT and SW noticed that pt is attentive in the 
groups. However, pt was shy to actively contributing to the 
discussions.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Contacted outpatient psychiatrist Dr. ___ collateral 
information
Contacted patient's parents to update them about her hospital 
course
Family meeting with patient's mother and step-father. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of  
starting Effexor and Hydroxyzine medication, and risks and 
benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to 
understand and consented to begin the medication.
 
#RISK ASSESSMENT
Static risk factors include: Race, Age of onset, single, 
unemployed

We attempted to modify these risk factors during this admission. 
 We established outpatient PCP and psychiatry appointments to 
ensure aftercare after discharge. We involved patient's family 
in the treatment course to ensure social support. 

Protective risk factors include:
***help-seeking nature, future-oriented viewpoint, sense reality 
testing ability, fair coping skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, and strong social supports.

Based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

# Prognosis
The clinical prognosis is guarded, given the fact that patient 
still has significant anxiety on the discharge. On positive 
site, this patient does not abuse substances, is not 
suicidal/homicidal, reports feeling better, compliant with 
medications, assessments, milieu. She has positive plans for 
future. 
While we were offering pt to extend hospital stay a little 
longer, there were no legal grounds to hold patient against her 
will. Also, family was involved in the d/c planning.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine 37.5 mg PO DAILY 

 
Discharge Medications:
1.  ARIPiprazole 10 mg PO QHS 
RX *aripiprazole 10 mg one tablet(s) by mouth at bedtime Disp 
#*14 Tablet Refills:*0 
2.  Vitamin D 1000 UNIT PO DAILY vitamin D deficiency 
RX *ergocalciferol (vitamin D2) 2,000 unit one tablet(s) by 
mouth daily Disp #*14 Tablet Refills:*0 
3.  Venlafaxine 150 mg PO DAILY 
RX *venlafaxine [Effexor XR] 150 mg one capsule(s) by mouth in 
the morning Disp #*14 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Social anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___